US06455528B1
(3) Synthesis of N-(1-(4-Chloromethylphenyl)ethyl)acetamide
To a solution of 1-(4-chloromethylphenyl)ethanol (17 g) in acetonitrile (102 ml) was added dropwise conc. sulfuric acid (5.7 ml) under ice-cooling. The mixture was stirred at 0° C. for 3.5 hr and left standing overnight. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with an aqueous sodium hydrogencarbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated to give a white solid. This solid was recrystallized from ethyl acetate-isopropyl ether to give the title compound (17 g) as white crystals.

reactant | 1-(4-chloromethylphenyl)ethanol | 17 g | ClCC1=CC=C(C=C1)C(C)O | C9H11ClO
reactant | sulfuric acid | 5.7 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
reactant | acetonitrile | 102 ml | C(C)#N | C2H3N
product | N-(1-(4-Chloromethylphenyl)ethyl)acetamide | 17 g | ClCC1=CC=C(C=C1)C(C)NC(C)=O | C11H14ClNO
